US07071182B2
2-{4-[(4-fluorobenzyl)oxy]phenyl}-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide
A mixture of 2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-yl]-acetamide (45.0 mg, 0.124 mmol), 1-bromomethyl-4-fluoro-benzene (35.0 mg, 0.185 mmol), Cs2CO3 (60.0 mg, 0.184 mmol) in 2 mL of DMF was shaken for 6 hours and concentrated under reduced pressure. The residue was dissolved in a 1:1 mixture of dimethyl sulfoxide/MeOH (1.5 mL) and purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, DMSO-D6) δ ppm 1.82 (m, 2 H), 1.98 (m, J=7.02, 7.02 Hz, 2 H), 3.02 (m, 2 H), 3.48 (m, 2 H), 3.68 (m, 4 H), 4.65 (t, J=6.24 Hz, 2 H), 5.07 (s, 2 H), 6.97 (m, 2 H), 7.11 (m, 1 H), 7.21 (m, 2 H), 7.27 (m, 2 H), 7.48 (m, 2 H), 7.71 (m, 1 H), 8.08 (s, 1 H), 8.26 (s, 1 H), 10.35 (s, 1 H); MS (ESI) m/z 473 [M+H]+.

reactant | 2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-yl]-acetamide | 0.124 mmol, 45.0 mg | OC1=CC=C(C=C1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C21H24N4O2
reactant | 1-bromomethyl-4-fluoro-benzene | 0.185 mmol, 35.0 mg | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | Cs2CO3 | 0.184 mmol, 60.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-{4-[(4-fluorobenzyl)oxy]phenyl}-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide | FC1=CC=C(COC2=CC=C(C=C2)CC(=O)NC2=CC=C3C=NN(C3=C2)CCN2CCCC2)C=C1 | C28H29FN4O2
